US03993646
A mixture of 2,2,2-trichloroethyl-6-(2-phenoxyacetamido)-2-methyl-2-bromomethylpenam-3-carboxylate (500 mg.), chloroform (10 cc) and pyridine (170 mg.) was heated under reflux for 10 hours. After cooling, the reaction mixture was washed with water, dilute phorphoric acid and water in order, dried and then concentrated. The residue was subjected to chromatography on silica gel and eluted to yield an oil. The oil was crystallized from a mixture of acetone and petroleum ether to yield 2,2,2-trichloroethyl 7-(2-phenoxyacetamido)-3-methyl-3-cephem-4-carboxylate, m.p. 111° - 113° C.

reactant | 2,2,2-trichloroethyl-6-(2-phenoxyacetamido)-2-methyl-2-bromomethylpenam-3-carboxylate | 500 mg | ClC(COC(=O)C1C(S[C@H]2N1C(C2NC(COC2=CC=CC=C2)=O)=O)(CBr)C)(Cl)Cl | C18H18BrCl3N2O5S
reactant | chloroform | 10 cc | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 170 mg | N1=CC=CC=C1 | C5H5N
product | 2,2,2-trichloroethyl 7-(2-phenoxyacetamido)-3-methyl-3-cephem-4-carboxylate | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=O)OCC(Cl)(Cl)Cl)C1=O | C18H17Cl3N2O5S
